Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin / Sulfa (Sulfonamide Antibiotics) / Amoxicillin / NSAIDS 
(Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Bloody bowel movements
 
Major Surgical or Invasive Procedure:
Flexible sigmoidoscopy ___

 
History of Present Illness:
___ is a ___ with a history of ulcerative colitis and 
IBS
presenting with abdominal pain and BRBPR. 

The patient reports that two weeks prior to presentation he
developed increased frequency of bowel movements (~4/day) along
with some dark red stool and lower abdominal pain, which is
typical for a UC flare for him. At this time he started taking
daily rectal mesalamine alternating with rectal Cortifoam, which
helped his symptoms and decreased the frequency of his bowel
movements to around twice per day. He called to check in with 
his
gastroenterologist on ___, who referred him to the ED for
workup of infection vs. UC flare, though his symptoms were by
that time improving.

The patient reports that prior to his symptoms worsening 2 weeks
ago, he had been in his normal state of health and not been on
any UC therapy. He has had low grade fevers always less than
___. No recent travel. He does think his wife had a diarrheal
illness around 1 month ago, though she is now improved. He has
not had any recent antibiotics. No nausea, vomiting,
lightheadedness, or syncope. 

In the ED, initial VS were: T 96.6 HR 73 BP 109/85 RR 18 O2 sat
99% RA 
 
Exam notable for:
A&O, NAD
CV: RRR
Pulm: Lungs clear to auscultation
GI: Soft, nondistended. Mildly tender to palpation in the
epigastrium and left lower quadrant. No rebound tenderness or
guarding. 

Labs showed normal chemistries, CBC, CRP, coags, and lactate.

Consults: GI - recommended sending inflammatory markers, stool
studies, blood cultures, and preparing for flex sigmoidoscopy.

Patient received 5 mg diazepam prior to transfer to the floor. 

On arrival to the floor, patient endorses the history above. He
currently has only mild lower abdominal pain. His last BM was 
~14
hours ago, and only had a small amount of blood. He thinks that
this flare is related to the fact that he started taking daily
ASA 81 mg recently, for preventative health purposes. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI
 
Past Medical History:
Ulcerative Colitis
Sessile serrated adenoma
GERD
Hypothyroidism
Anxiety
Rotator Cuff surgery
Low back pain 
IBS
 
Social History:
___
Family History:
Father with suspected colitis, though not
formally diagnosed. Reports no history of colon cancer. 

 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
VS: T 97.7 BP 117/76 HR 76 RR 18 O2 sat 96%RA 
GENERAL: Well-appearing, no acute distress 
HEENT: AT/NC, anicteric sclera, oropharynx with MMM and no
lesions
NECK: Supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, active bowel sounds, nondistended, mildly
tender in bilateral lower quadrants, no rebound/guarding, no
hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

===========================
DISCHARGE PHYSICAL EXAM
===========================
Vitals:  
___ 0717 Temp: 97.4 PO BP: 112/70 HR: 63 RR: 18 O2 sat: 97%
O2 delivery: Ra 
General: pleasant gentleman, lying comfortably in bed, no acute
distress 
HEENT: Sclera anicteric, MMM 
Lungs: Clear to auscultation bilaterally, no wheezing/crackles
CV: Regular rate and rhythm, normal S1 + S2, no murmurs
Abdomen: +bowel sounds, tender to palpation in bilateral lower
quadrants, no rebound tenderness, no distention 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: Face grossly symmetric. Moving all limbs with purpose
against gravity. Not dysarthric. Alert and oriented.
 
Pertinent Results:
====================
ADMISSION LABS
====================

___ 03:45PM BLOOD WBC-6.3 RBC-4.97 Hgb-15.2 Hct-44.6 MCV-90 
MCH-30.6 MCHC-34.1 RDW-13.2 RDWSD-43.5 Plt ___
___ 03:45PM BLOOD Neuts-62.0 ___ Monos-8.7 Eos-2.5 
Baso-1.6* Im ___ AbsNeut-3.93 AbsLymp-1.58 AbsMono-0.55 
AbsEos-0.16 AbsBaso-0.10*
___ 03:45PM BLOOD Plt ___
___ 03:45PM BLOOD ___ PTT-25.7 ___
___ 03:45PM BLOOD Glucose-128* UreaN-13 Creat-1.0 Na-142 
K-4.0 Cl-104 HCO3-24 AnGap-14
___ 03:45PM BLOOD CRP-3.4
___ 04:17PM BLOOD Lactate-1.3

====================
DISCHARGE LABS
====================

___ 05:45AM BLOOD WBC-8.0 RBC-4.63 Hgb-14.1 Hct-42.4 MCV-92 
MCH-30.5 MCHC-33.3 RDW-13.3 RDWSD-44.9 Plt ___
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD Glucose-104* UreaN-15 Creat-1.0 Na-141 
K-4.4 Cl-104 HCO3-20* AnGap-17
___ 05:45AM BLOOD ALT-26 AST-22 LD(LDH)-178 AlkPhos-45 
TotBili-0.6
___ 05:45AM BLOOD Calcium-9.3 Phos-3.8 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a history of ulcerative 
colitis, IBS, and recent initiation of aspirin, who presented 
with abdominal pain and BRBPR that initially responded to 
mesalamine and Cortifoam, admitted for flexible sigmoidoscopy 
and completion of infectious workup.

ACUTE ISSUES:
===============
#BRBPR:
#Abdominal pain:
#Ulcerative colitis
The patient reported symptoms over the past 2 weeks that were 
consistent with prior UC flares and improved with therapy 
targeted against this (mesalamine and Cortifoam), so there was 
lower suspicion for infection. CRP was normal, though patient 
appears to have never mounted a CRP with prior flares. Hgb 
normal and at baseline. It is possible that he is having 
symptoms from recently starting daily baby aspirin. Infectious 
workup that was sent was negative at the time of discharge. The 
patient underwent flexible sigmoidoscopy that showed decreased 
vascularity, erythema, and erosions in the sigmoid colon. The 
patient was discharged with the following plan: mesalamine 4.8g 
PO daily, as well as rectal Canasa and Cortifoam suppositories.

CHRONIC ISSUES:
===============
#HLD: Continued home pravastatin.

#Hypothyroidism: Continued home levothyroxine.

#Anxiety: Continued home sertraline.

TRANSITIONAL ISSUES
[ ] For ulcerative colitis flare, plan as follows: mesalamine 
4.8g PO daily, as well as rectal Canasa and Cortifoam 
suppositories
[ ] Scheduled for follow-up with PCP and outpatient GI

#CODE: Full, confirmed
#CONTACT: ___
Relationship: wife
Phone number: ___
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 25 mg PO DAILY 
2. Pravastatin 40 mg PO QPM 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Mesalamine (Rectal) ___VERY OTHER DAY 
5. Hydrocortisone Acetate 10%  Foam ___VERY OTHER DAY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Mesalamine ___ 4800 mg PO DAILY 
RX *mesalamine 1.2 gram 4 tablet(s) by mouth daily Disp #*120 
Tablet Refills:*0 
2.  Hydrocortisone Acetate 10%  Foam ___VERY OTHER DAY  
3.  Levothyroxine Sodium 100 mcg PO DAILY  
4.  Mesalamine (Rectal) ___VERY OTHER DAY  
5.  Pravastatin 40 mg PO QPM  
6.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Ulcerative colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I admitted to the hospital?
- You had recently been having an increased frequency in your 
bowel movements along with some blood in them

What was done while I was in the hospital?
- You had infectious studies that were sent that to this point 
are negative
- You underwent a flexible sigmoidoscopy that showed some 
inflammation in your colon

What should I do when I get home from the hospital?
- You should take mesalamine orally for your ulcerative colitis, 
as well as the rectal Canasa and Cortifoam suppositories, until 
you follow-up with your gastroenterologist
- Make sure to attend your follow-up appointments
- If you have fevers, chills, worsening abdominal pain, 
diarrhea, notice bloody or black stool or vomit, or generally 
feel unwell, please call your doctor or go to the emergency room

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___